US05366972
c) N-(2-Bromo-6-methoxy-3-pyridinyl)-2-chloro-N-methyl-3-pyridinecarboxamide
Sodium hydride (0.3 g of a 50% dispersion in mineral oil) was added to dimethylsulfoxide (10 ml) and warmed to 50° C. After cooling the mixture to room temperature. N-(2-bromo-6-methoxy-3-pyridinyl)-2-chloro-3-pyridinecarboxamide (2.0 g) was added and the resulting solution was stirred for 10 min. Methyl iodide (0.4 ml) was then added and the mixture was stirred for 30 min. The reaction mixture was quenched by the addition of water (10 ml) and ethyl acetate (100 ml) was then added. The organic phase was washed with water (4×100 ml), dried (anhydrous magnesium sulfate), concentrated, and purified on a silica gel column (methylene chloride followed by methylene chloride/ethanol, 98:2) to give 1.9 g of the title compound, suitable for use in the next reaction.

reactant | Sodium hydride | [H-].[Na+]
reactant | N-(2-bromo-6-methoxy-3-pyridinyl)-2-chloro-3-pyridinecarboxamide | 2.0 g | BrC1=NC(=CC=C1NC(=O)C=1C(=NC=CC1)Cl)OC | C12H9BrClN3O2
reactant | Methyl iodide | 0.4 ml | CI | CH3I
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | N-(2-Bromo-6-methoxy-3-pyridinyl)-2-chloro-N-methyl-3-pyridinecarboxamide | 1.9 g | BrC1=NC(=CC=C1N(C(=O)C=1C(=NC=CC1)Cl)C)OC | C13H11BrClN3O2
